US04764519
(a) 2-Methoxy-5-(pyrid-3-ylhydroxymethyl)pyridine
5-Bromo-2-methoxypyridine (188 g) was added over 30 minutes to a 1.55 molar solution of n-butyllithium in hexane (770 ml) and ether (1200 ml) stirred at -50° C. The suspension was stirred for 1 hour when pyridine-3-carboxaldehyde (112 g) in ether (200 ml) was added over 30 minutes. The solution was stirred for 3.5 hr and then allowed to warm to ambient temperature. Saturated ammonium chloride solution (100 ml) and water (2 L) was added and the solution was concentrated to ca. 2.5 L in vacuo. Chloroform (3 L) was added and the title compound (41.3 g) was collected by filtration. The chloroform layer was separated, dried over magnesium sulphate and the solvent was removed under reduced pressure. The residue was treated with chloroform (200 ml) and filtered to give a second crop of the product (51.01 g). Recrystallisation from isopropanol/ether gave the title compound, m.p. 129°-130° C.

reactant | 5-Bromo-2-methoxypyridine | 188 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | n-butyllithium | C(CCC)[Li]
reactant | pyridine-3-carboxaldehyde | 112 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | hexane | 770 ml | CCCCCC | C6H14
solvent | ether | 1200 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | water | 2 L | O | H2O
product | 2-Methoxy-5-(pyrid-3-ylhydroxymethyl)pyridine | 51.01 g | COC1=NC=C(C=C1)C(O)C=1C=NC=CC1 | C12H12N2O2
